US06191080B1
436 g of m-phenylmercapto thiophenol and 78 g of potassium hydroxide were dissolved in 500 ml of N-methyl-2-pyrrolidone, then 376 g of m-chlorophenyl phenylsulfide was added and the resultant mixture was heated to 170° C. After removing the water content, 20 g of cuprous chloride was added and heated to 210° C. and maintained at that temperature for 10 hours while stirring. After the reaction was over, the product was treated by the method as in Example Z-1 and bis(m-phenylmercaptophenyl)sulfide was obtained as a fraction at 255° C.-265° C./5 Torr by vacuum distillation.

reactant | m-phenylmercapto thiophenol | 436 g | C1(=CC=CC=C1)SC=1C=C(C=CC1)S | C12H10S2
reactant | potassium hydroxide | 78 g | [OH-].[K+]
reactant | m-chlorophenyl phenylsulfide | 376 g | ClC=1C(=C(C=CC1)SC1=C(C(=CC=C1)Cl)C1=CC=CC=C1)C1=CC=CC=C1 | C24H16Cl2S
solvent | N-methyl-2-pyrrolidone | 500 ml | CN1C(CCC1)=O | C5H9NO
product | bis(m-phenylmercaptophenyl)sulfide | C1(=CC=CC=C1)SC=1C=C(C=CC1)SC1=CC(=CC=C1)SC1=CC=CC=C1 | C24H18S3
